US07795262B2
Step 2. Preparation of 2-[2-(4-cyclobutyl-piperazin-1-yl)-2-oxo-ethyl]-1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide
To a stirred solution of 1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide (96 mg, 0.5 mmol) in acetonitrile (3.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (109 mg, 0.5 mmol, 1.0 eq.), K2CO3 (138 mg, 1.0 mmol, 2.0 eq.), and NaI (10 mg). The resulting mixture is stirred at rt overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3), and the combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by PTLC (EtOAc/4% TEA plus 4% EtOH) to give the title compound. MS (+VE) m/z 371.1 (M++1).

reactant | 1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide | 0.5 mmol, 96 mg | CNC(=O)C1=CC=C2CCNCC2=C1 | C11H14N2O
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 0.5 mmol, 109 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 1.0 mmol, 138 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 10 mg | [Na+].[I-]
solvent | acetonitrile | 3.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 2-[2-(4-cyclobutyl-piperazin-1-yl)-2-oxo-ethyl]-1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide | CNC(=O)C1=CC=C2CCN(CC2=C1)CC(=O)N1CCN(CC1)C1CCC1 | C21H30N4O2
